US03963717
A solution of 5.0 g. of 1-isopropyl-1-(2,3-dihydro-4-benzofuranyl)urea, 3.5 ml. of benzaldehyde, 3 drops of methanesulfonic acid and 150 ml. of toluene is stirred and refluxed under a water separator for 20 hours. The resulting solution is cooled and the cooled solution is washed with 150 ml. water, dried with anhydrous magnesium sulfate, filtered and concentrated in vacuo to give an oil of 1-isopropyl-3,4,7,8-tetrahydro-4-phenyl-furo[2,3-h]quinazolin-2(1H)-one.

reactant | 1-isopropyl-1-(2,3-dihydro-4-benzofuranyl)urea | C(C)(C)N(C(=O)N)C1=CC=CC2=C1CCO2 | C12H16N2O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
catalyst | methanesulfonic acid | 3 drops | CS(=O)(=O)O | CH4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-isopropyl-3,4,7,8-tetrahydro-4-phenyl-furo[2,3-h]quinazolin-2(1H)-one | C(C)(C)N1C(NC(C2=CC=C3C(=C12)CCO3)C3=CC=CC=C3)=O | C19H20N2O2
